US08044041B2
A mixture 6-bromo-4-chloro-2H-phthalazin-1-one and 7-bromo-4-chloro-2H-phthalazin-1-one (150 mg, 0.58 mmol), 3-fluorobenzylamine (0.08 mL, 0.70 mmol), Pd-2(dba)3 (43 mg, 0.047 mmol), rac-BINAP (118 mg, 0.190 mmol) and NaOt-Bu (139 mg, 1.45 mmol) in DMA (8 mL) was heated at 80° C. for 40 min. The mixture was allowed to cool, diluted with EtOAc (25 mL) and washed with water (25 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated. Chromatography on silica (EtOAc/hexanes) afforded 4-chloro-7-(3-fluoro-benzylamino)-2H-phthalazin-1-one (32 mg) as a white solid, 1H (600 MHz, CDCl3) δ: 4.44 (s, 2H), 6.92 (m, 1H), 7.00 (d, 1H), 7.05 (dd, 1H), 7.08 (d, 1H), 7.26 (m, 1H), 7.37 (d, 1H), 7.71 (d, 1H), 10.40 (s, 1H) ppm. m/z (M+1) 303.97; 4-chloro-6-(3-fluoro-benzylamino)-2H-phthalazin-1-one (23 mg) as an off white solid, 1H (600 MHz, CDCl3) δ: 4.35 (s, 2H), 6.78 (d, 1H), 6.86 (m, 1H), 6.94 (dd, 1H), 6.97 (bd, 1H), 7.05 (d, 1H), 7.21 (m, 1H), 8.00 (d, 1H), 11.00 (s, 1H) ppm. m/z (M+1) 303.97.

reactant | 6-bromo-4-chloro-2H-phthalazin-1-one | BrC=1C=C2C(=NNC(C2=CC1)=O)Cl | C8H4BrClN2O
reactant | 7-bromo-4-chloro-2H-phthalazin-1-one | 0.58 mmol, 150 mg | BrC1=CC=C2C(=NNC(C2=C1)=O)Cl | C8H4BrClN2O
reactant | 3-fluorobenzylamine | 0.70 mmol, 0.08 mL | FC=1C=C(CN)C=CC1 | C7H8FN
reactant | rac-BINAP | 0.190 mmol, 118 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOt-Bu | 1.45 mmol, 139 mg | CC(C)(C)[O-].[Na+]
solvent | DMA | 8 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | 4-chloro-7-(3-fluoro-benzylamino)-2H-phthalazin-1-one | 32 mg | ClC1=NNC(C2=CC(=CC=C12)NCC1=CC(=CC=C1)F)=O | C15H11ClFN3O
